US07375126B2
4-Pyridin-3-yl-indan-1-one O-methyl-oxime
4-Bromoindan-1-one O-methyloxime (720 mg, 3.0 mmol) was added to a mixture of pyridine-3-boronic acid (406 mg, 3.3 mmol), sodium carbonate (477 mg, 4.5 mmol) and Pd(dppf)Cl2.CH2Cl2 (122 mg, 0.15 mmol) in 7:2:3 DME:EtOH:H2O (15 mL). The stirred mixture was heated at 160° C. for 3 minutes on the microwave. After cooling to ambient temperature, the reaction mixture was filtered through celite, then silica gel with ethyl acetate. The filtrate was concentrated to a brown oil and chromatographed on silica gel with 70% ethyl acetate in hexane. Obtained 4-pyridin-3-yl-indan-1-one O-methyloxime (667 mg, 93%) as a yellow oil. MS (ESI) m/z: 239.1 [M+H]+. 1H NMR (DMSO-d6) δ: 2.81 (m, 2H), 3.08 (m, 2H), 3.92 (s, 3H), 7.45 (m, 2H), 7.48 & 7.51 (pair of dd, 1H), 7.63 (dd, 1H), 7.94 & 7.97 (pair of dd, 1H), 8.60 (dd, 1H), 8.72 (dd, 1H).

reactant | 4-Bromoindan-1-one O-methyloxime | 3.0 mmol, 720 mg | CON=C1CCC2=C(C=CC=C12)Br | C10H10BrNO
reactant | pyridine-3-boronic acid | 3.3 mmol, 406 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | sodium carbonate | 4.5 mmol, 477 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | CH2Cl2 | 0.15 mmol, 122 mg | C(Cl)Cl | CH2Cl2
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | H2O | 15 mL | O | H2O
solvent | EtOH | CCO | C2H6O
solvent | DME | COCCOC | C4H10O2
product | 4-Pyridin-3-yl-indan-1-one O-methyl-oxime | CON=C1CCC2=C(C=CC=C12)C=1C=NC=CC1 | C15H14N2O
